US08389524B2
(1R)-1-({4-[(3,4-Dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (for a preparation see Example 5(j)) (51 mg, 0.14 mmol) in chloroform:methanol (9:1, 3 ml) at rt under argon was treated with triethylamine (0.06 ml) and stirred at rt for 10 min. The solution was then treated with 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144, Example 126(e)) (21 mg, 0.133 mmol) and stirred for a further 2 h. The solution was then treated with NaBH(OAc)3 (87 mg) and stirred at rt for 2 h. The reaction was then treated with saturated aqueous NaHCO3 (10 ml) and extracted with 20% methanol/DCM (3×50 ml). The combined organic extracts were dried (MgSO4), filtered, evaporated and chromatographed (0-20% methanol/DCM) to give the free base of the title compound as a light brown solid (20 mg, 32%)

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O | C16H20N4O2
reactant | 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde | O1CCCC=2C1=CN=C(C2)C=O | C9H9NO2
reactant | NaBH(OAc)3 | 87 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
reactant | chloroform methanol | 3 ml | C(Cl)(Cl)Cl.CO
solvent | triethylamine | 0.06 ml | C(C)N(CC)CC | C6H15N
product | (1R)-1-({4-[(3,4-Dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 20 mg, 32% | Cl.O1CCCC=2C1=CN=C(C2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C25H29N5O3.ClH/c31-23-5-3-17-4-6-24(32)30-21(16-29(23)25(17)30)15-28-9-7-19(8-10-28)26-13-20-12-18-2-1-11-33-22(18)14-27-20;/h3-6,12,14,19,21,26H,1-2,7-11,13,15-16H2;1H/t21-;/m1./s1
